US06551831B2
Preparation of 2-Bromomethylphenylboronic Acid (5).
A suspension of 2-methylphenylboronic acid (10.65 g), N-bromosuccinimide (NBS, 16.86 g) and 2,2′-azobisisobutyronitrile (AIBN, 1.708 g) in carbon tetrachloride (1000 mL) was heated in an oil bath at 82° C. to reflux for 2 hours under anhydrous condition. Cooled the reaction mixture to room temperature and filtered off the solid. Extracted the filtrate with water (2×200 mL). The organic layer was separated, dried over MgSO4 and concentrated in vacuo to dryness. Redissolved the solid in methanol (100 mL) and added ethyl acetate (1000 mL) to it. The resultant precipitate was collected, washed with ethyl acetate (2×50 mL) and dried in the air. The filtrate was concentrated to a small volume and a second crop of solid was also collected. The combined solid was dried in an oven under high vacuum at 50° C. overnight. There was obtained 6.48 g (39%) of product.

reactant | 2-methylphenylboronic acid | 10.65 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | N-bromosuccinimide | 16.86 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 1.708 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 1000 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethylphenylboronic Acid | 6.48 g, 39% | BrCC1=C(C=CC=C1)B(O)O | C7H8BBrO2
